US09108921B2
Step B: 2-fluoroquinoline-8-sulfonyl chloride (20C)
A solution of 2-fluoroquinoline (1.3 g, 8.9 mmol) in chlorosulfonic acid (15 mL) was stirred at −5-0° C. for 15 minutes and at 130° C. overnight. The resulting reaction mixture was poured into an ice-water mixture (300 mL), stirred at room temperature for 20 min, and extracted with EtOAc. The organic layer was then washed with brine, dried over Na2SO4 and solvent was removed. The residue was purified by column chromatography using a gradient elution from 100% PE to PE/EtOAc (100:6) to afford 1.1 g of title compound. 1H NMR (CHLOROFORM-d) δ: 8.56 (d, J=7.5 Hz, 1H), 8.43 (t, J=8.3 Hz, 1H), 8.25 (d, J=8.3 Hz, 1H), 7.72 (t, J=7.8 Hz, 1H), 7.32 (dd, J=8.9, 3.0 Hz, 1H). LC-MS: m/z 246.3 (M+H)+

reactant | 2-fluoroquinoline | 8.9 mmol, 1.3 g | FC1=NC2=CC=CC=C2C=C1 | C9H6FN
reactant | chlorosulfonic acid | 15 mL | ClS(=O)(=O)O | ClHO3S
product | 2-fluoroquinoline-8-sulfonyl chloride | 1.1 g | FC1=NC2=C(C=CC=C2C=C1)S(=O)(=O)Cl | C9H5ClFNO2S
